US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(2,3,5-trifluorophenyl)pyrrolidine-2,4-dione (E3)
The compound was synthesized starting from ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-(2,3,5-trifluorophenyl)pyrrolidine-3-carboxylate (which may be prepared in accordance with the procedure described for Intermediate 7; 0.036 g, 0.086 mmol) and 5 N aqueous hydrochloric acid (3 ml) according to the method described in Method 1, step 3.

reactant | ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-(2,3,5-trifluorophenyl)pyrrolidine-3-carboxylate | N1C=NC2=C1C=CC(=C2)N2C(C(C(C2C2=C(C(=CC(=C2)F)F)F)=O)C(=O)OCC)=O | C20H14F3N3O4
reactant | hydrochloric acid | 5 N, 3 ml | Cl | ClH
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(2,3,5-trifluorophenyl)pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=C(C(=CC(=C2)F)F)F)=O)=O | C17H10F3N3O2
